US05045552
2-Chloromethyl-4-(3-methoxypropoxy)pyridine
A solution of 2.60 g (0.022 mol) of thionyl chloride in 10 ml of chloroform was dropwise added to a solution of 3.64 g (0.018 mol) of 2-hydroxymethyl-4-methoxypropoxypyridine in 60 ml of chloroform under cooling with ice. The obtained mixture was stirred for one hour, neutralized with a saturated aqueous solution of sodium hydrogencarbonate and extracted with chloroform. The chloroform layer was dried over magnesium sulfate and filtered. The filtrate was concentrated under a reduced pressure to obtain 3.23 g of the title compound as a crude product.

reactant | thionyl chloride | 0.022 mol, 2.60 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-4-methoxypropoxypyridine | 0.018 mol, 3.64 g | OCC1=NC=CC(=C1)OCCCOC | C10H15NO3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Chloromethyl-4-(3-methoxypropoxy)pyridine | 3.23 g | ClCC1=NC=CC(=C1)OCCCOC | C10H14ClNO2
